US05965730
To a solution of 4-(3-pyridyl)phthalazin-1(2H)-one (167 mg) in dimethylformamide (5 ml) are added successively potassium carbonate (103 mg), copper iodide (70 mg) and 2-bromo-4-[6,7-dimethoxy-2-(4-pyridyl)methyl-phthalazin-1(2H)-on-4-yl]pyridine (335 mg) under nitrogen atmosphere, and the mixture is refluxed for two hours. The reaction mixture is cooled, and thereto is added aqueous ammonia. The mixture is extracted with chloroform, and the extract is washed, dried, concentrated, and purified by silica gel column chromatography (solvent; chloroform:methanol=19:1) to give 4-[6,7-dimethoxy-2-(4-pyridyl)methylphthalazin-1(2H)-on-4-yl]-2-[4-(3-pyridyl)-phthalazin-1(2H)-on-2-yl]pyridine (216 mg).

reactant | 4-(3-pyridyl)phthalazin-1(2H)-one | 167 mg | N1=CC(=CC=C1)C1=NNC(C2=CC=CC=C12)=O | C13H9N3O
reactant | potassium carbonate | 103 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-4-[6,7-dimethoxy-2-(4-pyridyl)methyl-phthalazin-1(2H)-on-4-yl]pyridine | 335 mg | BrC1=NC=CC(=C1)C1=NN(C(C2=CC(=C(C=C12)OC)OC)=O)CC1=CC=NC=C1 | C21H17BrN4O3
reactant | ammonia | N | H3N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | copper iodide | 70 mg | [Cu](I)I
product | 4-[6,7-dimethoxy-2-(4-pyridyl)methylphthalazin-1(2H)-on-4-yl]-2-[4-(3-pyridyl)-phthalazin-1(2H)-on-2-yl]pyridine | 216 mg | COC=1C=C2C(=NN(C(C2=CC1OC)=O)CC1=CC=NC=C1)C1=CC(=NC=C1)N1C(C2=CC=CC=C2C(=N1)C=1C=NC=CC1)=O | C34H25N7O4
